US07144883B2
N-[1-(4-Methyl-1-piperazinyl)-3-isoquinolinyl]benzenesulfonamide, hydrochloride
To a solution of 1-(4-methyl-1-piperazinyl)-3-isoquinolinylamine (commercially available; 0.26 g, 1.07 mmol) and pyridine (0.60 mL, 7.51 mmol) in CH2Cl2 (3.0 mL) was added benzenesulfonyl chloride (151 μL, 1.18 mmol) in CH2Cl2 (1 mL). The mixture was stirred at room temperature for 16 hours and left in the refrigerator for 24 hours. The precipitate was collected by filtration to give 0.255 g (57%) of the pure product as the HCl-salt: 1H NMR (DMSO-d6) δ 10.93 (s, 2H), 7.96–7.90 (m, 3H), 7.79–7.75 (m, 1H), 7.64–7.56 (m, 4H), 7.44–7.38 (m, 1H), 7.01 (s, 1 H9, 3.70–3.15 (m, partly obscured by solvent signal, 8H), 2.79 (s, 3H); MS (posEI-DIP) m/z 382 (M+).

reactant | 1-(4-methyl-1-piperazinyl)-3-isoquinolinylamine | CN1CCN(CC1)C1=NC(=CC2=CC=CC=C12)N | C14H18N4
reactant | pyridine | 7.51 mmol, 0.60 mL | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | 1.18 mmol, 151 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-[1-(4-Methyl-1-piperazinyl)-3-isoquinolinyl]benzenesulfonamide, hydrochloride | 0.255 g, 57% | Cl.CN1CCN(CC1)C1=NC(=CC2=CC=CC=C12)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C20H22N4O2S.ClH/c1-23-11-13-24(14-12-23)20-18-10-6-5-7-16(18)15-19(21-20)22-27(25,26)17-8-3-2-4-9-17;/h2-10,15H,11-14H2,1H3,(H,21,22);1H
